US07129255B2
Ethyl[6-amino-4-(1,3-benzodioxol-5-yl)-3,5-dicyano-2-pyridinyl]acetate
2-Amino-4-(1,3-benzodioxol-5-yl)-6-(phenylsulfanyl)-3,5-dicyanopyridine (5.00 g, 13.43 mmol) [preparation analogously to J. M. Quintela, J. L. Soto, Anales de Quimica 79, 368–372 (1983)] is initially charged with ethyl malonamide (4.23 g, 23.22 mmol) in absolute DMF (30 ml) under an atmosphere of argon. Potassium tert-butoxide (3.01 g, 26.85 mmol) is added, and the solution is then stirred at room temperature for 22 hours. The mixture is poured into water (300 ml). The mixture is then extracted three times with ethyl acetate (300 ml each) and the combined organic phases are dried over magnesium sulfate, filtered and concentrated to about 100 ml. The precipitated crystals are filtered off with suction.

reactant | 2-Amino-4-(1,3-benzodioxol-5-yl)-6-(phenylsulfanyl)-3,5-dicyanopyridine | 13.43 mmol, 5.00 g | NC1=NC(=C(C(=C1C#N)C1=CC2=C(OCO2)C=C1)C#N)SC1=CC=CC=C1 | C20H12N4O2S
reactant | ethyl malonamide | 23.22 mmol, 4.23 g | C(C)C(C(=O)N)C(=O)N | C5H10N2O2
reactant | Potassium tert-butoxide | 26.85 mmol, 3.01 g | CC(C)([O-])C.[K+]
reactant | water | 300 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Ethyl[6-amino-4-(1,3-benzodioxol-5-yl)-3,5-dicyano-2-pyridinyl]acetate | C(C)OC(CC1=NC(=C(C(=C1C#N)C1=CC2=C(OCO2)C=C1)C#N)N)=O | C18H14N4O4
